US07439237B2
(5f) ethyl (R)-2-amino-3-(4-amino-3-chloro-5-trimethylsilanylethynyl-phenyl)-propionate
Under protective argon gas a mixture of 235 mg (0.64 mmol) ethyl (R)-2-amino-3-(4-amino-3-chloro-5-iodo-phenyl)-propionate, 45.9 mg (0.064 mmol) bis-(triphenylphosphine)-palladium(II)-dichloride, 6.0 mg (0.032 mmol) copper(I)- iodide and 15 ml triethylamine was combined with 0.19 ml (1.32 mmol) trimethylsilylacetylene and stirred for 3 hours at ambient temperature. The reaction mixture was combined with 30 ml of water and extracted with 40 ml of ethyl acetate. The organic phase was dried over sodium sulphate, evaporated down under reduced pressure and the residue was purified by column chromatography through silica gel.

reactant | ethyl (R)-2-amino-3-(4-amino-3-chloro-5-iodo-phenyl)-propionate | 0.64 mmol, 235 mg | N[C@@H](C(=O)OCC)CC1=CC(=C(C(=C1)I)N)Cl | C11H14ClIN2O2
reactant | triethylamine | 15 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylsilylacetylene | 1.32 mmol, 0.19 ml | C[Si](C)(C)C#C | C5H10Si
catalyst | bis-(triphenylphosphine)-palladium(II)-dichloride | 0.064 mmol, 45.9 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper(I)- iodide | 0.032 mmol, 6.0 mg | [Cu]I
solvent | water | 30 ml | O | H2O
product | ethyl (R)-2-amino-3-(4-amino-3-chloro-5-trimethylsilanylethynyl-phenyl)-propionate | N[C@@H](C(=O)OCC)CC1=CC(=C(C(=C1)C#C[Si](C)(C)C)N)Cl | C16H23ClN2O2Si
